US04545936
In the same manner as in Example 4-(1), 7-bromo-9(S)-acetoxyacetyl-6,9,11-trihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione (200 mg) obtained in Reference Example 4 was treated with ethanolamine (30 mg) and the reaction product was post-treated to give dark reddish brown crystals of 7(S)-β-hydroxyethylamino-9(S)-acetoxyacetyl-6,9,11-trihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione. M.P., 100°-103° C. [α]D20 =+166.2° (c=0.1, CHCl3).

reactant | 7-bromo-9(S)-acetoxyacetyl-6,9,11-trihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione | 200 mg | BrC1C=2C(=C3C(C=4C=CC=CC4C(C3=C(C2C[C@@](C1)(O)C(COC(C)=O)=O)O)=O)=O)O | C22H17BrO8
reactant | ethanolamine | 30 mg | C(O)CN | C2H7NO
product | 7(S)-β-hydroxyethylamino-9(S)-acetoxyacetyl-6,9,11-trihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione | OCCN[C@@H]1C=2C(=C3C(C=4C=CC=CC4C(C3=C(C2C[C@@](C1)(O)C(COC(C)=O)=O)O)=O)=O)O | C24H23NO9
